US04792553
7.30 g (27.6 mmol) of 5-(2,3,4-trimethoxyphenyl)-2,4-pentadienoic acid was dissolved in 300 ml of dry dichloromethane and 3.85 ml (27.6 mmol) of triethylamine was added thereto in the atmosphere of argon, and the mixture was stirred at 0° C. To the resulting mixture was added 2.64 ml (27.6 mmol) of ethylcarbonyl chloride followed by stirring for 1 hour and adding 9.59 g (33 mmol) of 4,4'-difluorobenzhydrylpiperazine in 50 ml of dry dichloromethane. Temperature of the mixture was raised to room temperature followed by stirring for additional 16 hours. After addition of water, the mixture was extracted with dichloromethane. The organic layer was washed successively with aqueous 1N-hydrochloric acid solution, a saturated aqueous sodium chloride solution, a saturated aqueous hydrogen carbonate solution and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. There was obtained a residue, which was subjected to column chromatography on silica gel to give 10.6 g (20 mmol) of 1-(4,4'-difluorobenzhydryl)-4-(5-(2,3,4-trimethoxyphenyl)-2,4-pentadienoyl)piperazine from eluates of ethyl acetate-hexane (1:1).

reactant | 5-(2,3,4-trimethoxyphenyl)-2,4-pentadienoic acid | 27.6 mmol, 7.30 g | COC1=C(C=CC(=C1OC)OC)C=CC=CC(=O)O | C14H16O5
reactant | triethylamine | 27.6 mmol, 3.85 ml | C(C)N(CC)CC | C6H15N
reactant | ethylcarbonyl chloride | 27.6 mmol, 2.64 ml | C(C)C(=O)Cl | C3H5ClO
reactant | 4,4'-difluorobenzhydrylpiperazine | 33 mmol, 9.59 g | FC1=CC=C(C(C2=CC=C(C=C2)F)N2CCNCC2)C=C1 | C17H18F2N2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
product | 1-(4,4'-difluorobenzhydryl)-4-(5-(2,3,4-trimethoxyphenyl)-2,4-pentadienoyl)piperazine | 20 mmol, 10.6 g | FC1=CC=C(C(C2=CC=C(C=C2)F)N2CCN(CC2)C(C=CC=CC2=C(C(=C(C=C2)OC)OC)OC)=O)C=C1 | C31H32F2N2O4
